US04178449
7-(α,α,α-Trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid
A mixture of 0.70 g. of 7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid sodium salt, 25 ml. of methylene chloride and 10 ml. of 1 N hydrochloric acid is stirred overnight. The solid which forms is collected by filtration. The filtrate is evaporated to produce more solid. The solids are combined and recrystallized from methylene chloride giving the desired product, m.p. 248°-250° C.

reactant | 7-(α,α,α-trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid sodium salt | [Na+].FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)[O-])(F)F
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 7-(α,α,α-Trifluoro-m-tolyl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | FC(C1=CC(=CC=C1)C1=CC=NC=2N1N=CC2C(=O)O)(F)F | C14H8F3N3O2
